US20010047099A1
To a solution of methyl 4-amino-3,6-dichloropyridine-2-carboxylate (18 g, 81 mmol) in 100 mL fuming sulfuric acid was added bromine (15 mL, excess). The resulting mixture was heated to 70° C. for 30 min, then allowed to cool to room temperature. This material was poured into ice water (1000 mL) and extracted with EtOAc (4×500 mL). The combined organic extracts were dried (MgSO4), filtered and concentrated to yield a brown solid. The crude product was purified via reverse phase HPLC (50% acetonitrile/water) to give 21 g of 4-amino-3,6-dichloro-5-bromopyridine-2-carboxylic acid as a white solid (91% yield); mp 201-202° C.

reactant | methyl 4-amino-3,6-dichloropyridine-2-carboxylate | 81 mmol, 18 g | NC1=C(C(=NC(=C1)Cl)C(=O)OC)Cl | C7H6Cl2N2O2
reactant | bromine | 15 mL | BrBr | Br2
solvent | sulfuric acid | 100 mL | S(O)(O)(=O)=O | H2O4S
product | 4-amino-3,6-dichloro-5-bromopyridine-2-carboxylic acid | 21 g, 91% yield | NC1=C(C(=NC(=C1Br)Cl)C(=O)O)Cl | C6H3BrCl2N2O2
